US08859553B2
4-Chloro-3-(2-(6-(cyclobutylamino)pyridazin-3-yl)ethynyl)-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)benzamide
The title compound was synthesized from N-cyclobutyl-6-ethynylpyridazin-3-amine and 4-chloro-3-iodo-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)benzamide in a manner similar to that described for in Example 1. The product was obtained as a pale yellow solid. Mp: 132-133° C.; 1H NMR (300 MHz, CDCl3) δ: 9.53 (1H, s), 8.10 (1H, s), 8.00 (2H, m), 7.85-7.87 (1H, d, J=6.0 Hz), 7.66-7.69 (1H, d, J=9.0 Hz), 7.43-7.45 (1H, d, J=6.0 Hz), 7.33-7.36 (1H, d, J=9.0 Hz), 6.58-6.61 (1H, d, J=9.0 Hz), 5.56 (1H, s), 4.23-4.25 (1H, m), 3.64 (2H, s), 2.61 (8H, brs), 2.44 (3H, s), 2.43 (2H, m), 1.91-1.97 (2H, m), 1.81-1.86 (1H, brs). HRMS (ESI-TOF+): m/z [M+H]+ calcd for C30H31ClF3N6O: 583.2194. found: 583.2174.

reactant | N-cyclobutyl-6-ethynylpyridazin-3-amine | C1(CCC1)NC=1N=NC(=CC1)C#C | C10H11N3
reactant | 4-chloro-3-iodo-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)benzamide | ClC1=C(C=C(C(=O)NC2=CC(=C(C=C2)CN2CCN(CC2)C)C(F)(F)F)C=C1)I | C20H20ClF3IN3O
product | 4-Chloro-3-(2-(6-(cyclobutylamino)pyridazin-3-yl)ethynyl)-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)benzamide | ClC1=C(C=C(C(=O)NC2=CC(=C(C=C2)CN2CCN(CC2)C)C(F)(F)F)C=C1)C#CC=1N=NC(=CC1)NC1CCC1 | C30H30ClF3N6O
